US08283353B2
N-(1,4-dioxaspiro[4.5]dec-8-yl)-4H-1,2,4-triazol-3-amine
To a solution of 1H-1,2,4-triazol-3-amine (66.6 g) and 1,4-dioxaspiro[4.5]decan-8-one (175 g) in acetic acid (1.25 L) was gradually added sodium triacetoxyborohydride (252 g) under ice-cooling. After stirring at room temperature for 16 hr, water (1 L) was added to the reaction mixture, and the mixture was concentrated under reduced pressure. The obtained residue was poured into saturated aqueous sodium hydrogen carbonate (1 L). The mixture was neutralized with sodium bicarbonate, and extracted 3 times with a mixed solvent of ethyl acetate and isopropyl alcohol (3:1, 2 L). The combined extracts were dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was solidified with diisopropyl ether (500 mL), and the resulting solid was collected by filtration, washed twice with diisopropyl ether (250 mL), and dried to give the title compound (166 g, 94%).

reactant | 1H-1,2,4-triazol-3-amine | 66.6 g | N1N=C(N=C1)N | C2H4N4
reactant | 1,4-dioxaspiro[4.5]decan-8-one | 175 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | sodium triacetoxyborohydride | 252 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | water | 1 L | O | H2O
solvent | acetic acid | 1.25 L | C(C)(=O)O | C2H4O2
product | N-(1,4-dioxaspiro[4.5]dec-8-yl)-4H-1,2,4-triazol-3-amine | 166 g, 94% | O1CCOC12CCC(CC2)NC2=NN=CN2 | C10H16N4O2
